US04292249
(iv) Synthesis of 1α,3β,25-trihydroxy-24-oxo cholesta-5,7-dien;
248 mg (0.6 m mol) of 1α,3β-dihydroxy-24-oxo cholesta-5,7-dien and 101 mg (0.9 m mol) of potassium-t-butoxide was dissolved in a mixture of t-butyl alcohol and ethyleneglycol dimethyl ether (1:1 V/V) warming at 40° C., and while cooling the solution with icewater to about 0° C. and stirring violently.

reactant | 1α,3β-dihydroxy-24-oxo cholesta-5,7-dien | 248 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H42O3
reactant | potassium-t-butoxide | 101 mg | CC(C)([O-])C.[K+]
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | ethyleneglycol dimethyl ether | COCCOC | C4H10O2
product | 1α,3β,25-trihydroxy-24-oxo cholesta-5,7-dien | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)O)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H42O4
